US05128355
Part B: 4-[1-(2'-Carbomethoxybiphenyl-4-yl)methyl-2-butyl-4-chloroimidazol-5-yl]-3-buten-2-one, E isomer
A mixture of 0.5 g of 1-(2'-carbomethoxybi-phenyl-4-yl)methyl-2-butyl-4-chloroimidazole-5-carboxaldehyde and 0.04 g of 1-triphenylphosphoran-ylidene-2-propanone in 20 mL of benzene was refluxed for 16 hours. The reaction mixture was concentrated to give an oily residue which was purified by flash chromatography on silica gel (hexane:ethyl acetate=1:1 elution). The desired compound was obtained as a thick yellowish liquid, 0.46 g; NMR (200 MHz, CDCl3): δ 7.9-6.8 (m, 10H); 5.24 (s, 2H); 3.62 (s, 3H); 3.62 (s, 3H); 2.69 (t, 2H, J=7.4 Hz); 2.26 (s, 3H); 1.72 (m, 2H); 1.38 (m, 2H); 0.91 (t, 3H, J=7.4Hz).

reactant | 1-(2'-carbomethoxybi-phenyl-4-yl)methyl-2-butyl-4-chloroimidazole-5-carboxaldehyde | 0.5 g | C(=O)(OC)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1C=O)Cl)CCCC | C23H23ClN2O3
reactant | 1-triphenylphosphoran-ylidene-2-propanone | 0.04 g | C1(=CC=CC=C1)P(=CC(C)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19OP
reactant | benzene | 20 mL | C1=CC=CC=C1 | C6H6
product | 4-[1-(2'-Carbomethoxybiphenyl-4-yl)methyl-2-butyl-4-chloroimidazol-5-yl]-3-buten-2-one | C(=O)(OC)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1C=CC(C)=O)Cl)CCCC | C26H27ClN2O3
